US07652053B2
cis-2-(5-Chloro-1-{4-[(5-chloro-indan-2-ylmethyl)-amino]-cyclohexyl}-1H-benzoimidazol-2-yl)-propan-2-ol
This compound was prepared from the hydrochloride salt of cis-2-[1-(4-amino-cyclohexyl)-5-chloro-1H-benzoimidazol-2-yl]-propan-2-ol and 5-chloro-indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C26H31Cl2N3O (m/e) calcd 471.1844, obsd 472.1 (M+H).

reactant | cis-2-[1-(4-amino-cyclohexyl)-5-chloro-1H-benzoimidazol-2-yl]-propan-2-ol | N[C@H]1CC[C@H](CC1)N1C(=NC2=C1C=CC(=C2)Cl)C(C)(C)O | C16H22ClN3O
reactant | 5-chloro-indan-2-carbaldehyde | ClC=1C=C2CC(CC2=CC1)C=O | C10H9ClO
product | cis-2-(5-Chloro-1-{4-[(5-chloro-indan-2-ylmethyl)-amino]-cyclohexyl}-1H-benzoimidazol-2-yl)-propan-2-ol | ClC1=CC2=C(N(C(=N2)C(C)(C)O)[C@@H]2CC[C@@H](CC2)NCC2CC3=CC=C(C=C3C2)Cl)C=C1 | C26H31Cl2N3O
